US06284903B1
A solution of 2,2-dimethyl-3-hydroxypropanal (22 g, 0.22 mol) and (carboethoxymethylene)triphenylphosphorane (75 g, 0.22 mol) in dry dichloromethane (150 ml) was refluxed for 46 h. The solvent was then evaporated and the crude product was distilled at 15 Torr through a very short column. The distillate was separated into two fractions by redistillation through a 40-cm Widmer column. The first fraction gave 22.3 g (60%) of ethyl trans-4,4-dimethyl-5-hydroxypent-2-enoate, b.p. 133 136° C./15 Torr, nD23 1.4641. 1H NMR (CDCl3): (=1.10 [s, 6H, C(CH3)2], 1.25 (t, 3H, CH3CH2), 3.40 (s, 2H, CH2), 3.80 (br. s, 1H, OH), 4.15 (q, 2H, CH2CH3), 5.80 (d, 1H, J=16 Hz, 3-H). Anal. Calad. for C9H16O3: C, 62.76; H, 9.36. Found: C, 62.92; H 9.50.

reactant | 2,2-dimethyl-3-hydroxypropanal | 0.22 mol, 22 g | CC(C=O)(CO)C | C5H10O2
reactant | (carboethoxymethylene)triphenylphosphorane | 0.22 mol, 75 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | ethyl trans-4,4-dimethyl-5-hydroxypent-2-enoate | 22.3 g, 60% | CC(/C=C/C(=O)OCC)(CO)C | C9H16O3
